US04452851
A mixture of 7-[4-chloro-2-(methoxycarbonylmethoxyimino)-3-oxobutyramido]-3-methylthio-3-cephem-4-carboxylic acid (syn isomer) (4.3 g), N-methylthiourea (1.8 g) and sodium acetate (4.1 g) in water (20 ml) and tetrahydrofuran (40 ml) was stirred at 38° to 42° C. for 2.5 hours. Water (50 ml) was added to the reaction mixture and the resultant solution was washed with ethyl acetate. The separated aqueous layer was acidified to pH 2.3 with 10% hydrochloric acid and then extracted with ethyl acetate. The ethyl acetate layer was washed with brine and dried over magnesium sulfate. The solution was evaporated and the residue was triturated with ether to give 7-[2-(2-methylaminothiazol-4-yl)-2-(methoxycarbonylmethoxyimino)acetamido]-3-methylthio-3-cephem-4-carboxylic acid (syn isomer) (3.2 g).

reactant | 7-[4-chloro-2-(methoxycarbonylmethoxyimino)-3-oxobutyramido]-3-methylthio-3-cephem-4-carboxylic acid | 4.3 g | ClCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)O)C1=O)=NOCC(=O)OC)=O | C15H16ClN3O7S2
reactant | N-methylthiourea | 1.8 g | CNC(=S)N | C2H6N2S
reactant | sodium acetate | 4.1 g | C(C)(=O)[O-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | Water | 50 ml | O | H2O
product | 7-[2-(2-methylaminothiazol-4-yl)-2-(methoxycarbonylmethoxyimino)acetamido]-3-methylthio-3-cephem-4-carboxylic acid | 3.2 g | CNC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)O)C1=O)=NOCC(=O)OC | C17H19N5O6S3
